US07601716B2
4-(2,5-Difluorobenzyl)-6-[6-(4-methylpiperazin-1-yl)pyridin-3-yl]-1,2,3,4-tetrahydro-[1,8]naphthyridine
Na2CO3 (2N, 53 μL) (4.0 eq) was added to a mixture of 6-bromo-4-(2,5-difluorobenzyl)-1,2,3,4-tetrahydro-[1,8]naphthyridine (9.0 mg) (1 eq), 1-methyl-4-[5-(4,4,5,5-tetramethyl-[1,3,2]dioxaborolan-2-yl)pyridin-2-yl]piperazine (11.3 mg) (1.4 eq), and Pd(PPh3)4 (3.0 mg, 0.1 eq) in toluene/ethanol (4:1, v/v, 2 mL). The reaction was heated at 90° C. for six (6) hours. The reaction mixture was then concentrated under reduced pressure and the residue was taken up in CH2Cl2 (15 mL) and washed with water (15 mL). The organic phase was dried over Na2SO4, filtered, concentrated under reduced pressure, and purified by silica gel chromatography using a gradient of 0-20% methanol/CH2Cl2 as the eluting solvent to give the title compound as a yellow foam (26% yield). LCMS: m/z=436 (M+H+), 1H-NMR (CDCl3, 400 MHz) δ 1.7-2.0 (m, 2H), 2.37 (s, 3H), 2.55-2.60 (m, 4H), 2.81 (dd, J=9.1 and 13.3 Hz, 1H), 2.98 (dd, J=6.4 and 13.3H, 1H), 3.08-3.18 (m, 1H), 3.40-3.50 (m, 1H), 3.53-3.70 (m, 5H), 5.18 (bs, 1H), 6.68 (d, J=8.8 Hz, 1H), 6.81-6.87 (m, 1H), 6.89-6.96 (m, 1H), 6.98-7.06 (m, 1H), 7.16 (d, J=1 Hz, 1H), 7.50 (dd, J=2.5 and 8.8 Hz, 1H), 8.05 (d, J=1 Hz, 1H), 8.24 (d, J=2.5 Hz, 1H).

reactant | Na2CO3 | 2N, 53 μL, 4.0 eq | C(=O)([O-])[O-].[Na+].[Na+]
reactant | 6-bromo-4-(2,5-difluorobenzyl)-1,2,3,4-tetrahydro-[1,8]naphthyridine | 9.0 mg, 1 eq | BrC=1C=C2C(CCNC2=NC1)CC1=C(C=CC(=C1)F)F | C15H13BrF2N2
reactant | 1-methyl-4-[5-(4,4,5,5-tetramethyl-[1,3,2]dioxaborolan-2-yl)pyridin-2-yl]piperazine | 11.3 mg, 1.4 eq | CN1CCN(CC1)C1=NC=C(C=C1)B1OC(C(O1)(C)C)(C)C | C16H26BN3O2
solvent | toluene ethanol | 2 mL | C1(=CC=CC=C1)C.C(C)O
catalyst | Pd(PPh3)4 | 3.0 mg, 0.1 eq | C=1C=CC(=CC1)[P](C=2C=CC=CC2)(C=3C=CC=CC3)[Pd]([P](C=4C=CC=CC4)(C=5C=CC=CC5)C=6C=CC=CC6)([P](C=7C=CC=CC7)(C=8C=CC=CC8)C=9C=CC=CC9)[P](C=1C=CC=CC1)(C=1C=CC=CC1)C=1C=CC=CC1
product | 4-(2,5-Difluorobenzyl)-6-[6-(4-methylpiperazin-1-yl)pyridin-3-yl]-1,2,3,4-tetrahydro-[1,8]naphthyridine | 26% yield | FC1=C(CC2CCNC3=NC=C(C=C23)C=2C=NC(=CC2)N2CCN(CC2)C)C=C(C=C1)F | C25H27F2N5
